US04894371
7-[2-(2-aminothiazol-4-yl)-2-((Z)-1-carboxy-1-methylethoxyimino)acetamido]-3-(4-cyano-3-hydroxy-isothiazol-5-yl)aminomethylceph-3-em-4-carboxylic acid.
A mixture of 7-[2-(2-aminothiazol-4-yl)-2-((Z)-1-carboxy-1-methylethoxyimino)acetamido]-3-aminomethylceph-3-em-4-carboxylic acid (900 mg) and methyl 4-cyano-3-diphenylmethoxyisothiazol-5-sulphinate (800 mg) in solution in DMF (15 ml) containing 1 ml triethylamine was stirred at ambient temperature for five hours. The mixture was neutralised with HOAc and evaporated. The residue was purified by HPLC eluting with a 70/30 v/v mixture of methanol and water, and then with methanol to yield 700 mg of the desired product, nmr in solvent A 1.5 (s, 6 H); 3.8-4.1 (m, 2 H); 4.1-4.3 (m, 2 H); 5.15 (d, 1 H); 5.85 (d, 1 H); 7.0 (s, 1 H); 7.2-7.6 (m, 10 H).

reactant | 7-[2-(2-aminothiazol-4-yl)-2-((Z)-1-carboxy-1-methylethoxyimino)acetamido]-3-aminomethylceph-3-em-4-carboxylic acid | 900 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CN)C(=O)O)C1=O)=N/OC(C)(C)C(=O)O | C17H20N6O7S2
reactant | methyl 4-cyano-3-diphenylmethoxyisothiazol-5-sulphinate | 800 mg | C(#N)C=1C(=NSC1S(=O)OC)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C18H14N2O3S2
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | HOAc | CC(=O)O | C2H4O2
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 7-[2-(2-aminothiazol-4-yl)-2-((Z)-1-carboxy-1-methylethoxyimino)acetamido]-3-(4-cyano-3-hydroxy-isothiazol-5-yl)aminomethylceph-3-em-4-carboxylic acid | 700 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CNC2=C(C(=NS2)O)C#N)C(=O)O)C1=O)=N/OC(C)(C)C(=O)O | C21H20N8O8S3
